US07148240B2
A. Methyl 3-(2-[4-(2-bromoethoxy)phenyl]-1,3-dioxolan-2-yl)-2-butylbenzofuran-5-carboxylate
10.0 g (0.022 mol) of methyl 3-[4-(2-bromoethoxy)benzoyl]-2-butylbenzofuran-5-carboxylate, 3.39 g (0.055 mol) of ethylene glycol, 890 mg of para-toluenesulfonic acid (pTsA) and 100 ml of benzene are brought to reflux for 3 days, eliminating the water formed using a Dean-Stark apparatus. The mixture is evaporated to dryness and the residue is chromatographed on a column of silica, eluting with DCM (dichloromethane) and then a DCM/ethyl acetate (99/1) mixture. 5 g of the pure desired compound are thus isolated.

reactant | methyl 3-[4-(2-bromoethoxy)benzoyl]-2-butylbenzofuran-5-carboxylate | 0.022 mol, 10.0 g | BrCCOC1=CC=C(C(=O)C2=C(OC3=C2C=C(C=C3)C(=O)OC)CCCC)C=C1 | C23H23BrO5
reactant | ethylene glycol | 0.055 mol, 3.39 g | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid | 890 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Methyl 3-(2-[4-(2-bromoethoxy)phenyl]-1,3-dioxolan-2-yl)-2-butylbenzofuran-5-carboxylate | 5 g | BrCCOC1=CC=C(C=C1)C1(OCCO1)C1=C(OC2=C1C=C(C=C2)C(=O)OC)CCCC | C25H27BrO6
